US07109211B2
Step 1. Preparation of ethyl 2-trifluoromethyl-3H-naphthopyran-carboxylate.
A mixture of 2-hydroxy-1-naphthaldehyde (8.6 g, 0.050 mol) and ethyl 4,4,4-trifluorocrotonate (9.2 g, 0.055 mol) dissolved in anhydrous dimethylformamide (DMF) and treated with anhydrous K2CO3 (13.8 g, 0.100 mol). The solution was maintained at room temperature for 50 hours and diluted with water. The solution was extracted with ethyl acetate, and the combined extracts were washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford 4.8 g of an oil. The oil was purified by HPLC, eluting with hexanes:ethyl acetate (30:1). The appropriate fractions were concentrated to afford 1.6 g (10%) of the napthopyran ester as a yellow solid.

reactant | 2-hydroxy-1-naphthaldehyde | 0.050 mol, 8.6 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | ethyl 4,4,4-trifluorocrotonate | 0.055 mol, 9.2 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | K2CO3 | 0.100 mol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-trifluoromethyl-3H-naphthopyran-carboxylate | 4.8 g | FC(C=1COC2=C(C1C(=O)OCC)C1=CC=CC=C1C=C2)(F)F | C17H13F3O3
